US05716948
d) 4-Methoxybenzyl 3-oxo-5-[(3S,4R)-3-phenylacetamidoazetidin-2-on-4-yl]pentanoate
A solution of 4-methoxybenzyl alcohol (1.50 g, 10.87 mmol) in toluene (6 ml) was added to a solution of (3S,4R)-4-[(2,2-dimethyl-4H-1,3-dioxin-4-on-6-yl)ethyl]-3-phenylacetamidoazetidin-2-one (3.86 g, 10.78 mmol) and heated to reflux for 1.5 h. The reaction mixture was concentrated in vacuo and the residue triturated with toluene to give the title compound (3.50 g, 75%) as a crude product; νmax (CH2Cl2) 3412, 1772, 1747, 1717, 1684 and 1514 cm-1 ; δH (CDCl3) 1.63 (2H, m), 2.39 (2H, t, J7.0 Hz), 3.37 (2H, s), 3.58 (2H, s), 3.68 (1H, m), 3.81 (3H, s), 5.09 (2H, s), 5.18 (1H, m), 6.26 (1H, br.s, exch.), 6.63 (1H, d, J 7.9 Hz), 6.89 (2H, d, J 8.6 Hz) and 7.21-7.38 (7H, m); m/z (FAB, -ve ion, thioglycerol) 437 (M-H)-.

reactant | 4-methoxybenzyl alcohol | 10.87 mmol, 1.50 g | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | (3S,4R)-4-[(2,2-dimethyl-4H-1,3-dioxin-4-on-6-yl)ethyl]-3-phenylacetamidoazetidin-2-one | 10.78 mmol, 3.86 g | CC1(OC(=CC(O1)=O)CC[C@@H]1[C@@H](C(N1)=O)NC(CC1=CC=CC=C1)=O)C | C19H22N2O5
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Methoxybenzyl 3-oxo-5-[(3S,4R)-3-phenylacetamidoazetidin-2-on-4-yl]pentanoate | 3.50 g, 75% | O=C(CC(=O)OCC1=CC=C(C=C1)OC)CC[C@@H]1[C@@H](C(N1)=O)NC(CC1=CC=CC=C1)=O | C24H26N2O6
